US08809369B2
A mixture of 6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (150 mg, 0.32 mmol), 1-3-dimethylaminopropyl-3-ethylcarbodiimide hydrochloride (91 mg, 0.48 mmol), 4-dimethylaminopyridine (59 mg, 0.48 mmol), cyclopropane sulfonic acid amide (149 mg, 1.23 mmol) in dichloromethane (10 mL) was refluxed for 12 h. Removal of the solvent to afford the oil residue. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% formic acid in water) afforded cyclopropanesulfonic acid [6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carbonyl]-amide (38.6 mg, 20%) as a light yellow solid: MS (ESI) M+1=472.3.

reactant | 6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 0.32 mmol, 150 mg | FC=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC(=CC=C1)N1CCCC1)(C)C | C22H25FN2O2
reactant | cyclopropane sulfonic acid amide | 1.23 mmol, 149 mg | C1(CC1)S(=O)(=O)N | C3H7NO2S
catalyst | 4-dimethylaminopyridine | 0.48 mmol, 59 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | cyclopropanesulfonic acid [6-fluoro-4,4-dimethyl-2-(3-pyrrolidin-1-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carbonyl]-amide | 38.6 mg, 20% | FC=1C=C2C(CC(NC2=C(C1)C(=O)NS(=O)(=O)C1CC1)C1=CC(=CC=C1)N1CCCC1)(C)C | C25H30FN3O3S
